US08486962B2
A mixture of 1-chloro-4-nitro benzene (1.5 g, 9.5 mmol) and thiomorpholine (1.0 g, 9.7 mmol) was refluxed in n-butanol overnight. The solvent was evaporated under reduced pressure to give a residue, which on triturating with water gave a precipitate. The solid was filtered and washed thoroughly with water, followed by a small amount of pet ether to yield crude solid. Recrystallisation with ethanol yielded 4-(4-nitro-phenyl)-thiomorpholine (1.5 g, 71%).

reactant | 1-chloro-4-nitro benzene | 9.5 mmol, 1.5 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | thiomorpholine | 9.7 mmol, 1.0 g | N1CCSCC1 | C4H9NS
solvent | n-butanol | C(CCC)O | C4H10O
product | 4-(4-nitro-phenyl)-thiomorpholine | 1.5 g, 71% | [N+](=O)([O-])C1=CC=C(C=C1)N1CCSCC1 | C10H12N2O2S
